US06593323B1
3-(6-Bromohexyl)-2,4-thiazolidinedione
36.6 g of 1,6-dibromohexane, 5.9 g of 2,4-thiazolidinedione and 7.1 g of triethylamine were added to 125 ml of acetonitrile and the mixture was heated with stirring under reflux for 8 hours. After cooling to room temperature, the solvent was evaporated under reduced pressure and the residue was poured into water. The mixture was extracted with methylene chloride and the methylene chloride layer was washed with saturated brine and dried over sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1→4:1) to obtain 9.8 g of the title compound as pale yellow oil (yield: 70%).

reactant | 1,6-dibromohexane | 36.6 g | BrCCCCCCBr | C6H12Br2
reactant | 2,4-thiazolidinedione | 5.9 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | triethylamine | 7.1 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | 3-(6-Bromohexyl)-2,4-thiazolidinedione | 9.8 g, yield: 70% | BrCCCCCCN1C(SCC1=O)=O | C9H14BrNO2S
